US07265120B2
To a suspension of NaH (60% in oil suspension) (77.7 mg) in dioxane (0.6 ml) was added 1H-pyrrole (0.161 ml) and the mixture was stirred at 25-30° C. for 30 minutes. After addition of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (150 mg), the mixture was heated at 100-105° C. for 2 hours. A mixture of water and chloroform was added to the reaction mixture. An organic layer was collected, dried over MgSO4, concentrated under reduced pressure and purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (75:25 v/v) to give a solid. The solid was crystallized from a mixture of IPE and n-hexane to give 6-[5-amino-3-phenyl-6-(1H-pyrrol-1-yl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (38 mg).

reactant | NaH | 77.7 mg | [H-].[Na+]
reactant | 1H-pyrrole | 0.161 ml | N1C=CC=C1 | C4H5N
reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 150 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | water | O | H2O
solvent | dioxane | 0.6 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-[5-amino-3-phenyl-6-(1H-pyrrol-1-yl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 38 mg | NC=1N=C(C(=NC1N1C=CC=C1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C21H20N6O
